US06087359
To a suspension of N-[[4-[(4-methylphenyl)thio]-phenyl]sulfonyl]-N-[2-(4-morpholinyl)ethyl]-D-valine, 1,1-dimethylethyl ester, from Example 2b (3.5 g, 6.4 mmole) in water (50 ml) was added concentrated HCl (50 ml). After stirring for 1 hour at room temperature for 30 minutes under reflux, the reaction was concentrated to give N-[[4-[(4-methylphenyl)thio]phenyl]sulfonyl]-N-[2-(4-morpholinyl)-ethyl]-D-valine, monohydrochloride, as a white foam (3.5 g, 100%): MS MH+ calc'd for C24H32N2S2O5 ; 493, found: 493.

reactant | N-[[4-[(4-methylphenyl)thio]-phenyl]sulfonyl]-N-[2-(4-morpholinyl)ethyl]-D-valine, 1,1-dimethylethyl ester | CC1=CC=C(C=C1)SC1=CC=C(C=C1)S(=O)(=O)N([C@H](C(C)C)C(=O)OC(C)(C)C)CCN1CCOCC1 | C28H40N2O5S2
reactant | HCl | 50 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
product | N-[[4-[(4-methylphenyl)thio]phenyl]sulfonyl]-N-[2-(4-morpholinyl)-ethyl]-D-valine, monohydrochloride | Cl.CC1=CC=C(C=C1)SC1=CC=C(C=C1)S(=O)(=O)N([C@H](C(C)C)C(=O)O)CCN1CCOCC1 | InChI=1S/C24H32N2O5S2.ClH/c1-18(2)23(24(27)28)26(13-12-25-14-16-31-17-15-25)33(29,30)22-10-8-21(9-11-22)32-20-6-4-19(3)5-7-20;/h4-11,18,23H,12-17H2,1-3H3,(H,27,28);1H/t23-;/m1./s1
